US04428939
The polymer cHAG is synthesized from N-benzyloxycarbonyl-substituted cHyp (Boc-cHyp-OH) and L-alanine (Boc-Ala-OH), and from O-benzyl-glycine (GlyOBzl). To a solution of GlyOBzl.p-toluenesulphonyl (1.3 g, 4 mmoles) and triethylamine (0.56 ml, 4 mmoles) in 10 ml tetrahydrofuran, Boc-cHyp-OH (0.85 g, 3.7 mmoles) and dicyclohexylcarbodiimide (0.76 g, 3.7 mmoles) are added. The mixture is allowed to react for 15 hr. The precipitate is removed by filtration and the filtrate is concentrated to a residue which is then dissolved in ethylacetate. The solution is washed with N-hydrochloric acid, 5% sodium bicarbonate, and water. It is dried over sodium sulfate and evaporated in vacuo. The residue is recrystallized from ethylacetate and n-hexane to obtain 1.02 g.

reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | O-benzyl-glycine | C(C1=CC=CC=C1)OC(CN)=O | C9H11NO2
reactant | GlyOBzl | NCC(=O)OCC1=CC=CC=C1 | C9H11NO2
reactant | triethylamine | 4 mmoles, 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 3.7 mmoles, 0.76 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | cHAG | C1CCC(CC1)C2(CCC(=O)NC2=O)C3=CC=C(C=C3)N | C17H22N2O2
